US08957070B2
Ethyl 7-[(methylsulfonyl)amino]-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-1H-indole-2-carboxylate (0.28 g) and pyridine (8 mL) was added methylsulfonyl chloride (0.13 mL) at 4° C., and the mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated, diluted with ethyl acetate, washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (240 mg, yield 62%) as pale-yellow crystals. melting point 157-158° C.

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 0.28 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | methylsulfonyl chloride | 0.13 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 7-[(methylsulfonyl)amino]-1H-indole-2-carboxylate | 240 mg, yield 62% | CS(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C12H14N2O4S
